US09302989B2
1-(4-nitrophenyl)-4-phenoxypiperidine
A solution of 1-fluoro-4-nitrobenzene (0.15 g, 1.063 mmol) and 4-phenoxypiperidine hydrochloride (0.250 g, 1.169 mmol) in dimethylformamide (2.126 ml) was treated with potassium carbonate (0.367 g, 2.66 mmol). The suspension was stirred at ambient temperature 2 hours, at 55° C. for 4 hours and at ambient temperature for 16 hours. The reaction was poured into water and the suspension was filtered and vacuum dried to provide the title compound.

reactant | 1-fluoro-4-nitrobenzene | 1.063 mmol, 0.15 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-phenoxypiperidine hydrochloride | 1.169 mmol, 0.250 g | Cl.O(C1=CC=CC=C1)C1CCNCC1
reactant | potassium carbonate | 2.66 mmol, 0.367 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 2.126 ml | CN(C=O)C | C3H7NO
product | 1-(4-nitrophenyl)-4-phenoxypiperidine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)OC1=CC=CC=C1 | C17H18N2O3
